US07402684B2
(S)-2-[4-(4-trifluoromethyl-phenoxy)-phenoxymethyl]-pyrrolidine To a solution of 4-(4-trifluoromethyl-phenoxy)-phenol (1.25 g, 5.0 mmol) in DMF (13 mL) was added 60% NaH (5.0 mmol) at 0° C. and the resulting mixture was stirred at rt for one hour. This was followed by addition of (S)-2-(toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.78 g, 5.0 mmol) in one portion to above reaction and the reaction was heated at 60° C. for 16 h. The mixture was partitioned between water and diethyl ether. The organic layer was washed with brine, dried over anhy. Na2SO4, and concentrated in vacuo to obtain an oil as (S)—N-Boc-2-[4-(4-trifluoromethyl-phenoxy)-phenoxymethyl]-pyrrolidine, which was dissolved in 20 ml of DCM and treated with trifluoroacetic acid (5 mL) at if for one hour. The reaction was evaporated in vacuo to give a tan oil. Water was added and pH was adjusted to 10 with aqueous saturated Na2CO3 solution. The aqueous phase was extracted with EtOAc and the organic layer was washed with brine, dried over anhy. Na2SO4, and concentrated in vacuo to obtain an oil, which was purified by flash chromatography eluting with 2-5% hexane/EtOAc to afford the title compound (1.45 g, 86%) as a light tan solid: MS; m/z 338 (M+1).

reactant | (S)-2-[4-(4-trifluoromethyl-phenoxy)-phenoxymethyl]-pyrrolidine | FC(C1=CC=C(OC2=CC=C(OC[C@H]3NCCC3)C=C2)C=C1)(F)F | C18H18F3NO2
reactant | 4-(4-trifluoromethyl-phenoxy)-phenol | 5.0 mmol, 1.25 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | NaH | 5.0 mmol | [H-].[Na+]
reactant | (S)-2-(toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 5.0 mmol, 1.78 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | (S)—N-Boc-2-[4-(4-trifluoromethyl-phenoxy)-phenoxymethyl]-pyrrolidine | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F | C23H26F3NO4
